US08871782B2
The method described in Part D of Example 45 was used to treat N-[4-(3-amino-7-benzyloxyquinolin-4-ylamino)butyl]methanesulfonamide (15.1 g, 36.5 mmol) with butyryl chloride (4.77 mL, 46.2 mmol). The crude product was purified by column chromatography on silica gel (eluting with 96:4 chloroform:methanol containing ammonium hydroxide) to provide 11.8 g of N-[4-(7-benzyloxy-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide as a tan solid.

reactant | N-[4-(3-amino-7-benzyloxyquinolin-4-ylamino)butyl]methanesulfonamide | 36.5 mmol, 15.1 g | NC=1C=NC2=CC(=CC=C2C1NCCCCNS(=O)(=O)C)OCC1=CC=CC=C1 | C21H26N4O3S
reactant | butyryl chloride | 46.2 mmol, 4.77 mL | C(CCC)(=O)Cl | C4H7ClO
product | N-[4-(7-benzyloxy-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide | 11.8 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCNS(=O)(=O)C)CCC | C25H30N4O3S
